US08383642B2
Ethyl (3S)-3-[4-[[4-(spiro[indane-1,4′-piperidine]-1′-ylmethyl)phenyl]methoxy]phenyl]hex-4-ynoate
To a solution of 2,3-dihydrospiro[indene-1,4′-piperidine] (0.37 g, 1.68 mmol) in acetonitrile (20.0 mL), is added Cs2CO3 (1.37 g, 4.21 mmol at room temperature, followed by the addition of 3-[4-(4-bromomethyl-benzyloxy)-phenyl]-hex-4-ynoic acid ethyl ester (0.70 g, 1.68 mmol). The reaction mixture is stirred overnight at room temperature. The reaction mixture is filtered through diatomaceous earth and the filtrate is evaporated. The crude product is purified by silica gel column chromatography (gradient 3% methanol in DCM) to give the title compound as colorless gel, (0.82 g, 93.7%). ESI/MS 522.2 (M+H)+.

reactant | 2,3-dihydrospiro[indene-1,4′-piperidine] | 1.68 mmol, 0.37 g | N1CCC2(CC1)CCC1=CC=CC=C12 | C13H17N
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-[4-(4-bromomethyl-benzyloxy)-phenyl]-hex-4-ynoic acid ethyl ester | 1.68 mmol, 0.70 g | C(C)OC(CC(C#CC)C1=CC=C(C=C1)OCC1=CC=C(C=C1)CBr)=O | C22H23BrO3
solvent | acetonitrile | 20.0 mL | C(C)#N | C2H3N
product | Ethyl (3S)-3-[4-[[4-(spiro[indane-1,4′-piperidine]-1′-ylmethyl)phenyl]methoxy]phenyl]hex-4-ynoate | 0.82 g, 93.7% | N1(CCC2(CC1)CCC1=CC=CC=C12)CC1=CC=C(C=C1)COC1=CC=C(C=C1)[C@H](CC(=O)OCC)C#CC | C35H39NO3
